US08710100B2
3-Nitrobenzaldehyde (45.3 g, 0.3 mol), N-acetylglycine (42.1 g, 0.36 mol) and sodium acetate (32 g, 0.39 mol) were mixed with acetic anhydride (142 ml, 1.5 mol) and the resulting mixture heated with stirring to 120° C. for 6 hrs, giving a dark solution. The mixture was then cooled to RT overnight, resulting in the formation of a precipitated solid. The reaction mixture was poured into ice-water (130 g) and the resulting suspended solid was collected by filtration. The crude solid product (72 g) was washed with acetone (80 ml) then recrystallized from hot acetone (320 ml) to give a crystalline solid that was washed with 50% aqueous ethanol, then dried at 40° C./40 mmHg to give 2-methyl-4-(3-nitrobenzylidene)oxazol-5(4H)-one (49.0 g, 78%) as pale yellow needles. 1H NMR (δ, 250 MHz, CDCl3)=2.47 (3H, s), 7.15 (1H, s), 7.63 (1H, dd, 8.2 & 7.6 Hz), 8.27 (1H, d, 8.2 Hz), 8.34 (1H, d, 7.6 Hz), 9.02 (1H, s).

reactant | 3-Nitrobenzaldehyde | 0.3 mol, 45.3 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | N-acetylglycine | 0.36 mol, 42.1 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 0.39 mol, 32 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 1.5 mol, 142 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-4-(3-nitrobenzylidene)oxazol-5(4H)-one | 49.0 g, 78% | CC=1OC(C(N1)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H8N2O4
